US08217032B2
8,10-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol
Dissolve 5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,4,6-trifluoro-phenyl)-naphthalen-2-ol hydrochloride (730 mg, 1.4 mmol) and potassium tert-butoxide (5.36 mg, 4.8 mmol) in dry DMF (25 mL) and heat at 50° C. for 10 minutes. Cool reaction and pour onto ice/ethyl acetate. Separate organic layer and wash with 10% aqueous lithium chloride. Dry, filter, and concentrate in vacuo. Purify by silica gel chromatography using a 1-6% gradient of methanol in dichloromethane to yield 532 mg (76%) of the title compound.

reactant | 5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,4,6-trifluoro-phenyl)-naphthalen-2-ol hydrochloride | 1.4 mmol, 730 mg | Cl.OC(C1=C2C=CC(=CC2=CC=C1C1=C(C=C(C=C1F)F)F)O)C1=CC=C(C=C1)OCCN1CCCCC1
reactant | potassium tert-butoxide | 4.8 mmol, 5.36 mg | CC(C)([O-])C.[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 8,10-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol | 532 mg, 76% | FC=1C=C2OC(C3=C4C=CC(=CC4=CC=C3C2=C(C1)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
